US09303012B2
a) Cyclopropyl-(5-methyl-[1,3,4]oxadiazol-2-ylmethyl)-amine
A mixture of cyclopropanamine (765-30-0, 194 mg, 236 μL, 3.39 mmol) and 2-(chloromethyl)-5-methyl-1,3,4-oxadiazole (3914-42-9, 90 mg, 679 μmol) was stirred for 16 h at ambient temperature. The mixture was concentrated under reduced pressure and the residue taken up in ice-water/saturated aqueous Na2CO3 solution 1/1 (20 mL) and EtOAc (30 mL). The layers were separated and the aqueous layer was extracted one more time with EtOAc (30 mL). The combined extracts were washed with ice-water/brine 1/1 (15 mL), dried over Na2SO4 and brought to dryness to give the title compound (36 mg, 35%) as yellow oil which was sufficiently pure to be used in the next reaction step; MS (EI): m/e=154.2 [MH+].

reactant | cyclopropanamine | 3.39 mmol, 236 μL, 194 mg | C1(CC1)N | C3H7N
reactant | 2-(chloromethyl)-5-methyl-1,3,4-oxadiazole | 679 μmol, 90 mg | ClCC=1OC(=NN1)C | C4H5ClN2O
product | Cyclopropyl-(5-methyl-[1,3,4]oxadiazol-2-ylmethyl)-amine | 36 mg, 35% | C1(CC1)NCC=1OC(=NN1)C | C7H11N3O
